US05688995
55.6 g (0.11 mol) of 4,6-bis[4-(2-ethylhexyloxy)phenyl]-s-triazin-2-ol in 300 ml of xylene, to which 1 ml of dimethylformamide has been added, are placed in a 1.5 l sulfonating flask fitted with stirrer, cooler, internal thermometer, dropping funnel and gas outlet. 17.0 g (0.14 mol) of thionyl chloride are added dropwise at an internal temperature of 75-80 C. with vigorous stirring over the course of 15 minutes. After the evolution of gas has subsided, the temperature is raised to 100 C. The reaction is complete after 2 hours (checking by thin-layer chromatography). Excess thionyl chloride is distilled off from the reaction vessel under a slight vacuum, and the intermediate 2-chloro-4,6-bis[4-(2-ethylhexyloxy)phenyl]-s-triazine is reacted further directly. 16.2 g (0.12 mol) of dry, sublimed aluminium chloride are introduced at 50 C. (about 1 minute), whereby the temperature rises to 65 C. The initially clear, yellow solution becomes a red, then olive suspension. 13.3 g (0.12 mol) of resorcinol are added in portions at 50-55 C. (about 10 minutes) and the mixture is then heated to 85 C. After 3 hours the thin-layer chromatogram shows no further starting material. The mixture is cooled to 70 C. and the aluminium complex is hydrolysed by slow dropwise addition of 300 ml of 5% hydrochloric acid, during which the temperature should not exceed 80 C. The solvent (xylene) is removed by steam distillation, and the oily residue is stirred with 500 ml of hot toluene and filtered over silica gel. The filtrate is digested with active charcoal and filtered again. The filtrate is dried over sodium sulfate and the solvent is distilled off. For further purification, the viscous brown residue (69 g) is dissolved in 150 ml of toluene/ethyl acetate (95/5) and subjected to column chromatography (6 cm×60 cm silica gel 60), to give 33.6 g (51% of theory) of 4-{4,6-bis[4-(2-ethylhexyloxy)phenyl]-s-triazin-2-yl}-1,3-dihydroxybenzene as a viscous yellow oil.

reactant | 4,6-bis[4-(2-ethylhexyloxy)phenyl]-s-triazin-2-ol | 0.11 mol, 55.6 g | C(C)C(COC1=CC=C(C=C1)C1=NC(=NC(=N1)C1=CC=C(C=C1)OCC(CCCC)CC)O)CCCC | C31H43N3O3
reactant | thionyl chloride | 0.14 mol, 17.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | resorcinol | 0.12 mol, 13.3 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-{4,6-bis[4-(2-ethylhexyloxy)phenyl]-s-triazin-2-yl}-1,3-dihydroxybenzene | 33.6 g, 51% | C(C)C(COC1=CC=C(C=C1)C1=NC(=NC(=N1)C1=CC=C(C=C1)OCC(CCCC)CC)C1=C(C=C(C=C1)O)O)CCCC | C37H47N3O4
